US05972965
To a solution of (2R)-N-benzyloxycarbonylproline (5 g) in CH2Cl2 (50 ml) were added benzoin (4.5 g), 1-ethyl 3-(3-dimethylaminopropyl)carbodiimide (3.9 ml), and dimethylaminopyridine (2.6 g) at room temperature under N2. After being stirred for 12 hours at room temperature, the solvent was evaporated in vacuo, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The obtained compound and CH3COONH4 (8.2 g) were dissolved in acetic acid (50 ml) and the mixture was stirred for 4 hours at 100° C. After the solvent was removed, the residue was partitioned between ethyl acetate and water. The organic layer was washed with water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (2R)-1-benzyloxycarbonyl-2-(4,5-diphenyloxazol-2-yl)pyrrolidine (4 g). MS (m/z): 425 (M+ +1) IR (Neat): 1700 cm-1NMR (CDCl3, δ): 1.8-2.4 (4H, m), 3.4-3.8 (2H, m) 4.8-5.3 (3H, m), 7.0-7.7 (15H, m)

reactant | (2R)-N-benzyloxycarbonylproline | 5 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C(=O)O)CCC1 | C13H15NO4
reactant | benzoin | 4.5 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 1-ethyl 3-(3-dimethylaminopropyl)carbodiimide | 3.9 ml | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | dimethylaminopyridine | 2.6 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (2R)-1-benzyloxycarbonyl-2-(4,5-diphenyloxazol-2-yl)pyrrolidine | 4 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N2O3
